US04990531
1-[(4-cyclopentyl)phenylsulphonyl]-2-pyrrolidinone
8 cm3 of a 1.5M solution of n-butyllithium in n-hexane is poured into a solution comprising 1.02 g, or 0.9 cm3 of 2-pyrrolidinone in 50 cm3 of tetrahydrofuran, cooled to -70° C. without the temperature exceeding -60° C. After 15 minutes, 3 g of benzenesulphonyl-4-cyclopentyl chloride in solution in 12 cm3 of tetrahydrofuran is added, maintaining the temperature between -65° and -70° C. After allowing to return to ambient temperature over 2 hours and evaporating to dryness, the residue is chromatographed on silica (eluent: ethyl acetate-n-hexane 1-3) and 2.6 g of expected product is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-pyrrolidinone | 0.9 cm3 | N1C(CCC1)=O | C4H7NO
reactant | benzenesulphonyl-4-cyclopentyl chloride | 3 g | C1(=CC=CC=C1)S(=O)(=O)C1CCC(C1)Cl | C11H13ClO2S
reactant | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 cm3 | O1CCCC1 | C4H8O
product | 1-[(4-cyclopentyl)phenylsulphonyl]-2-pyrrolidinone | 2.6 g | C1CCC(C1)C1=C(C=CC=C1)S(=O)(=O)N1C(CCC1)=O | C15H19NO3S
